US06921763B2
A suspension of N2-[4-(4-amino-1-tetrahydro-1H-3-pyrrolyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)-2-methoxyphenyl]-1-methyl-1H-2-indolecarboxamide (0.250 g, 0.518 mmol) in dichloroethane (5 mL) was treated with acetone (1.96 g, 33.15 mmol) and sodium triacetoxy borohydride (0.220 g, 1.04 mmol). The reaction mixture was stirred at room temperature for 18 h under a nitrogen atmosphere. Sodium hydroxide (1N, 15 mL) was added to the reaction mixture and was stirred for 1 h. The organic layer was removed under reduced pressure and dichloromethane was added. The layers were partitioned and the aqueous layer was extracted with dichloromethane (200 mL). The combined organic layers were dried over magnesium sulfate, filtered and evaporated under reduced pressure. The crude material was purified by flash chromatography on silica gel using 10% methanol in dichloromethane (15 min), 15% methanol in dichloromethane (15 min), 20% methanol in dichloromethane (20 min) and 50% methanol in dichloromethane (5 min) as the eluent. The column afforded 0.123 g (44%) of pure N2-{4-[4-amino-1-(1-isopropyltetrahydro-1H-3-pyrrolyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-2-methoxyphenyl}-1-methyl-1H-2-indolecarboxamide. 1H NMR (DMSO-d6, 400 MHz) δ 9.449 (s, 1H), 8.265 (s, 1H), 8.127-8.1068 (d, 1H, J=8.08 Hz), 7.7196-7.6999 (d, 1H, J=7.88 Hz), 7.6013-7.5803 (d, 1H, J=8.4 Hz), 7.351-7.299 (m, 4H), 7.173-7.135 (m, 1H), 5.394 (m, 1H), 4.042 (s, 3H), 3.961 (s, 3H), 2.793 (m, 3H), 2.337 (m, 3H), 1.068 (br.s, 6H); LCMS (Thermoquest AQA single-quad MS, Genesis C18 column, 3 μm particle size, 33×4.6 mm; 70% 50 mM ammonium acetate in water to 95% acetonitrile over 6 min, 0.8 to 0.5 mL/min) R 2.38 min (100%), MH+ 525.3.

reactant | N2-[4-(4-amino-1-tetrahydro-1H-3-pyrrolyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)-2-methoxyphenyl]-1-methyl-1H-2-indolecarboxamide | 0.518 mmol, 0.250 g | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C2CNCC2 | C26H26N8O2
reactant | acetone | 33.15 mmol, 1.96 g | CC(=O)C | C3H6O
reactant | sodium triacetoxy borohydride | 1.04 mmol, 0.220 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Sodium hydroxide | 1N, 15 mL | [OH-].[Na+]
solvent | dichloroethane | 5 mL | ClC(C)Cl | C2H4Cl2
product | N2-{4-[4-amino-1-(1-isopropyltetrahydro-1H-3-pyrrolyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-2-methoxyphenyl}-1-methyl-1H-2-indolecarboxamide | 0.123 g, 44% | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C2CN(CC2)C(C)C | C29H32N8O2
